US07402581B2
A mixture of 1-(Diphenylmethyl)azetidin-3-yl methanesulfonate (see J. Org. Chem.; 56; 1991; 6729; 10 g, 31.5 mmol), thiomorpholine (3.9 g, 38 mmol) and DIPEA (4.9 g, 38 mmol) was refluxed overnight. The volatiles were removed by evaporation and the residue was partitioned between CH2Cl2 and NaHCO3 aq. The organic layer was washed twice with NaHCO3 aq. and then extracted with an aqueous solution of citric acid (3×70 mL of 1M). The aqueous layer was cooled and then pH adjusted with aqueous NaHCO3 and then 2M NaOH aq. The mixture was extracted with a mixture of CH2Cl2-EtOAc-ethanol and the organic solution was dried over MgSO4 and then removed by evaporation. There was obtained 9.3 g (91%) of 4-[1-(diphenylmethyl)azetidin-3-yl]thiomorpholine as a pale yellow solid. 1H NMR (400 MHz, CDCl3): 2.5 (m, 4H), 2.7 (m, 4H), 2.8 (t, 2H), 3.0 (qn 1H), 3.4 (m, 2H), 4.4 (s, 1H), 7.1-7.4 (m, 1OH); LCMS: m/z 325 (M+1)+.

reactant | 1-(Diphenylmethyl)azetidin-3-yl methanesulfonate | 31.5 mmol, 10 g | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
reactant | thiomorpholine | 38 mmol, 3.9 g | N1CCSCC1 | C4H9NS
reactant | DIPEA | 38 mmol, 4.9 g | CCN(C(C)C)C(C)C | C8H19N
product | 4-[1-(diphenylmethyl)azetidin-3-yl]thiomorpholine | 9.3 g, 91% | C1(=CC=CC=C1)C(N1CC(C1)N1CCSCC1)C1=CC=CC=C1 | C20H24N2S
